US07419997B2
N-(6-Chloro-2,3,4,9-tetrahydro-1H-carbazol-1-yl)-1-methyl-1H-imidazole-5-carboxamide
To a solution of 1-methyl-1H-imidazole-5-carboxylic acid (45 mg, 0.36 mmol) in dichloromethane (3.6 mL) was added 6-chloro-2,3,4,9-tetrahydro-1H-carbazol-1-amine (95 mg, 0.43 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (83 mg, 0.43 mmol), and 1-hydroxybenzotriazole (54 mg, 0.40 mmol). After 5 minutes, triethylamine (100 μL, 0.72 mmol) was added and the reaction was stirred at room temperature for 15 hours. The reaction mixture was diluted with dichloromethane, washed with water, 1 N hydrochloric acid, 1 N sodium hydroxide, brine, dried with magnesium sulfate, filtered, and concentrated. The residue was purified by preparative chromatography (10-90% acetonitrile-water (0.1% trifluoroacetic acid)) and then diluted with ethyl acetate, washed with saturated aqueous sodium bicarbonate, and dried with magnesium sulfate to give 43 mg (36% yield) of a white solid. 1H-NMR (CDCl3): δ 9.21 (s, 1H), 7.43 (m, 1H), 7.32 (s, 1H), 7.30 (s, 1H), 7.20 (d, 1H), 7.07 (dd, 1H), 6.60 (d, 1H), 5.25 (m, 1H), 3.81 (s, 3H), 2.67 (m, 2H), 2.21 (m, 1H), 1.90 (m, 3H); MS m/z 327 (M−1).

reactant | 1-methyl-1H-imidazole-5-carboxylic acid | 0.36 mmol, 45 mg | CN1C=NC=C1C(=O)O | C5H6N2O2
reactant | 6-chloro-2,3,4,9-tetrahydro-1H-carbazol-1-amine | 0.43 mmol, 95 mg | ClC=1C=C2C=3CCCC(C3NC2=CC1)N | C12H13ClN2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 0.43 mmol, 83 mg | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | 1-hydroxybenzotriazole | 0.40 mmol, 54 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 0.72 mmol, 100 μL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 3.6 mL | ClCCl | CH2Cl2
product | N-(6-Chloro-2,3,4,9-tetrahydro-1H-carbazol-1-yl)-1-methyl-1H-imidazole-5-carboxamide | 43 mg, 36% yield | ClC=1C=C2C=3CCCC(C3NC2=CC1)NC(=O)C1=CN=CN1C | C17H17ClN4O
